US07851473B2
N-1,2-Benzisoxazol-3-yl-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide hydrochloride
To a solution of N-1,2-benzisoxazol-3-yl-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide (2.00 g, 4.92 mmol) in tetrahydrofuran (500 ml) was added a solution of 4 N hydrogen chloride in ethyl acetate (100 ml), and the mixture was stirred at room temperature for 5 hours and concentrated. Diethyl ether was added to the residue, and the desired product as a solid was separated by filtration.

reactant | N-1,2-benzisoxazol-3-yl-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide | 4.92 mmol, 2.00 g | O1N=C(C2=C1C=CC=C2)NC(=O)N2CCN(CC2)C2=NC(=NS2)C2=CC=CC=C2 | C20H18N6O2S
reactant | hydrogen chloride | 4 N | Cl | ClH
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | N-1,2-Benzisoxazol-3-yl-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide hydrochloride | Cl.O1N=C(C2=C1C=CC=C2)NC(=O)N2CCN(CC2)C2=NC(=NS2)C2=CC=CC=C2 | InChI=1S/C20H18N6O2S.ClH/c27-19(21-18-15-8-4-5-9-16(15)28-23-18)25-10-12-26(13-11-25)20-22-17(24-29-20)14-6-2-1-3-7-14;/h1-9H,10-13H2,(H,21,23,27);1H
